US04362670
A mixture of ethyl methallyl carbonate (1.58 g, 0.011 mole), phenylacetylene (1.02 g, 0.010 mole) and tetrakis(triphenylphosphine) palladium (O) (0.25 g, 0.21 mmole) in tetrahydrofuran (15 ml) was refluxed for 91 hours under N2. Gas chromatographic analysis showed that the ethyl methallyl carbonate was totally consumed but about 10 percent of phenylacetylene remained. The product, methallylphenylacetylene, was isolated by preparative gas chromatography (0.96 g, 61.5 percent yield) and identified by spectroscopic techniques.

reactant | ethyl methallyl carbonate | 0.011 mole, 1.58 g | C(OCC)(OCC(C)=C)=O | C7H12O3
reactant | phenylacetylene | 0.010 mole, 1.02 g | C1(=CC=CC=C1)C#C | C8H6
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium (O) | 0.21 mmole, 0.25 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | methallylphenylacetylene | 61.5 percent yield | C(C(C)=C)C#CC1=CC=CC=C1 | C12H12
